US04902713
EXAMPLE 6 Preparation of 3-deacetylazadirachtin A.
15.8 mg. azadirachtin A (2.2×10-5 mole) were dissolved in 100 μl. methanol. To this solution were added three times 100 μl. amounts of a methanolic solution of sodium methylate (0.6 g. sodium in 50 ml. methanol). After each addition of 100 μl. methylate solution, there was a pause of 2 minutes and then a testing with HPLC whether azadirachtin A was still present. After the disappearance of azadirachtin A, the reaction mixture was neutralised with acetic acid, diluted with water and extracted with chloroform. The purification from by-products took place by semipreparative HPLC on a 20 cm. RP-18 column of 9 mm. internal diameter, using the elution agent methanol/ water (2:3 v/v); detection at 215 nm; yield 2.4 mg. (15.2% of theory).

reactant | azadirachtin A | 2.2×10-5 mole | C/C=C(\C)/C(=O)O[C@H]1C[C@H]([C@]2(CO[C@@H]3[C@@H]2[C@]14CO[C@@]([C@H]4[C@]([C@@H]3O)(C)[C@@]56[C@H]7C[C@@H]([C@@]5(O6)C)[C@]8(C=CO[C@H]8O7)O)(C(=O)OC)O)C(=O)OC)OC(=O)C | C35H44O16
reactant | methanol | CO | CH4O
reactant | sodium methylate | 50 ml, 0.6 g | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-deacetylazadirachtin | C/C=C(\C)/C(=O)O[C@H]1C[C@H]([C@]2(CO[C@@H]3[C@@H]2[C@]14CO[C@@]([C@H]4[C@]([C@@H]3O)(C)[C@@]56[C@@H]7C[C@H]([C@@]5(O6)C)[C@]8(C=CO[C@H]8O7)O)(C(=O)OC)O)C(=O)OC)O | C33H42O15
